US07645771B2
3-Chlorobenzenesulfonyl chloride (31.6 mg, 0.122 mmol) was added to a solution of 2-methyl-1-{(1R,5S)-8-[2-(4-phenyl-4-piperidinyl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole (50.0 mg, 0.117 mmol) and diisopropyletheylamine (44.9 mg, 0.348 mmol) in DCM. The reactions were quenched with sat. NaHCO3 and separated with a hydrophobic frit. Flash chromatography on silica 0 to 10% MeOH in EtOAc afforded 1-[(1R,5S)-8-(2-{1-[(3-chlorophenyl)sulfonyl]-4-phenyl-4-piperidinyl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole 14.7 mg (20% yield). MS ES+ 603 (M+H). 1H NMR (300 MHz, chloroform-d) δ ppm 1.6 (m, 2H), 1.7 (m, 4H), 1.9 (m, 8H), 2.4 (m, 4H), 2.6 (s, 3H), 2.8 (m, 2H), 3.4 (m, 2H), 4.6 (m, 1H), 7.2 (m, 5H), 7.3 (m, 3H), 7.4 (t, J=7.9 Hz, 1H), 7.5 (m, 1H), 7.6 (d, J=7.8 Hz, 1H), 7.7 (m, 1H), 7.7 (m, J=1.8, 1.8 Hz, 1H).

reactant | 3-Chlorobenzenesulfonyl chloride | 0.122 mmol, 31.6 mg | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-methyl-1-{(1R,5S)-8-[2-(4-phenyl-4-piperidinyl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole | 0.117 mmol, 50.0 mg | CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2 | C28H36N4
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[(1R,5S)-8-(2-{1-[(3-chlorophenyl)sulfonyl]-4-phenyl-4-piperidinyl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole | 14.7 mg, 20% yield | ClC=1C=C(C=CC1)S(=O)(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C34H39ClN4O2S
